US04783528
Cholesteryl chloroacetate.
A solution of cholesterol (1.93 g, 5 mmol) and triethylamine (0.51 g, 5 mmol) in benzene (25 mL) was added dropwise to an 8°-10° C. solution of chloroacetyl chloride (0.57 g, 5 mmol) in benzene (20 mL). The solution was heated under reflux at 80° C. for 24 hours, cooled to room temperature and worked up. Recrystallization (absolute EtOH) afforded the title compound (1.53 g, 66%) as a white solid (mp 160°-161° C.).

reactant | cholesterol | 5 mmol, 1.93 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | triethylamine | 5 mmol, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 5 mmol, 0.57 g | ClCC(=O)Cl | C2H2Cl2O
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | Cholesteryl chloroacetate | 1.53 g, 66% | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)OC(=O)CCl)C)C | C29H47ClO2
